US05849710
To a suspension of 3-(indol-3-ylmethylene)-5-(2-piperidin-1-yl-acetyl)-2-indolinone (100 mg) in water (10 ml) the stoichiometric amount of 0,1N HCl solution (3 ml) was added. The solution was freeze-dried to give 105 mg of 3-(indol-3-ylmethylene)-5-(2-piperidin-1-yl-acetyl)-2-indolinone hydrochloride.

reactant | 3-(indol-3-ylmethylene)-5-(2-piperidin-1-yl-acetyl)-2-indolinone | 100 mg | N1C=C(C2=CC=CC=C12)C=C1C(NC2=CC=C(C=C12)C(CN1CCCCC1)=O)=O | C24H23N3O2
reactant | HCl | 0,1N, 3 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 3-(indol-3-ylmethylene)-5-(2-piperidin-1-yl-acetyl)-2-indolinone hydrochloride | 105 mg | Cl.N1C=C(C2=CC=CC=C12)C=C1C(NC2=CC=C(C=C12)C(CN1CCCCC1)=O)=O | InChI=1S/C24H23N3O2.ClH/c28-23(15-27-10-4-1-5-11-27)16-8-9-22-19(12-16)20(24(29)26-22)13-17-14-25-21-7-3-2-6-18(17)21;/h2-3,6-9,12-14,25H,1,4-5,10-11,15H2,(H,26,29);1H
